US08859774B2
(R)-(1-(4-Fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)methanol (3.5 g, 7.72 mmol) was dissolved in dichloromethane (80 mL) and Dess-Martin Periodinane (5.24 g, 12.35 mmol) was added. The reaction was stirred at room temperature for 1 hour. A saturated solution of sodium hydrogen carbonate (aqueous, 50 ml) was added and the mixture was stirred for 10 minutes. The phases were separated and solvent removed to give a pale yellow solid. The crude product was purified by chromatography on silica gel (gradient: 0-80% ethyl acetate in isohexane) to afford (R)-1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde (2.9 g) as a very pale yellow solid. LCMS (Method F, ES-API): RT 2.46 min, m+H=452.

reactant | (R)-(1-(4-Fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)methanol | 7.72 mmol, 3.5 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)CO)S(=O)(=O)C=2C=C(C=CC2)C | C24H24FN3O3S
reactant | Dess-Martin Periodinane | 12.35 mmol, 5.24 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | (R)-1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carbaldehyde | 2.9 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C=O)S(=O)(=O)C=2C=C(C=CC2)C | C24H22FN3O3S
